US07652032B2
1-methyl-1H-benzimidazol-4-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 4-hydroxy-1-methyl-1H-benzimidazole, the desired product is obtained in the form of a white solid with a yield of 38%. The product obtained is used directly in the deacetylation step.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-hydroxy-1-methyl-1H-benzimidazole | OC1=CC=CC=2N(C=NC21)C | C8H8N2O
product | 1-methyl-1H-benzimidazol-4-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 38% | C(C)(=O)O[C@H]1[C@H](OC2=CC=CC=3N(C=NC32)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H22N2O7S
